US09079866B2
5-{4-[2-(Cyclobutyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using (2-(cyclobutoxy)pyridin-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C19H17FN4O, 336.14; m/z found, 337.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.63-8.57 (m, 1H), 8.17-8.10 (m, 2H), 8.01-7.92 (m, 1H), 7.66 (dd, J=1.9, 7.4, 1H), 7.52-7.43 (m, 2H), 7.00-6.93 (m, 1H), 5.38-5.22 (m, 1H), 4.67 (s, 2H), 2.57-2.37 (m, 2H), 2.26-2.05 (m, 2H), 1.90-1.61 (m, 2H).

reactant | (2-(cyclobutoxy)pyridin-3-yl)boronic acid | C1(CCC1)OC1=NC=CC=C1B(O)O | C9H12BNO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-{4-[2-(Cyclobutyloxy)pyridin-3-yl]-2-fluorophenyl}pyrazin-2-amine | C1(CCC1)OC1=NC=CC=C1C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C19H17FN4O
